US06727264B1
4-(3,4-DIFLUOROPHENYL)-5-METHYL-OXAZOLIDIN-2-ONE:
Into a well-stirred solution of [1-(3,4-difluorophenyl)-2-hydroxy-propyl]-carbamic acid-tert-butyl ester (0.43 g, 1.5 mmol) in THF (20 mL) was added 95% NaH (0.09 g, 3.8 mmol) at room temperature. When the reaction was carried out on a larger (>5 g) scale, 1.0 equivalent of KH and 1.5 eq. of NaH was used as the base. The resulting suspension was stirred for 3 h at about 35° C. (warm water bath) and then quenched carefully with ice. The biphasic mixture was extracted with 100 mL of EtOAc, washed with brine, dried over Na2SO4, filtered and the solvent was removed in vacuo. The two diastereomers were separated by column chromatography over silica gel (First isomer: 0.16 g, Rf=0.6, 3:1 hexane-EtOAc; second isomer: 0.18 g, Rf=0.5, 3:1 hexane-EtOAc). NOE experiments suggested that the first diastereomer had the methyl and the aryl group in trans configuration while the second diastereomer had cis relationship between the two groups. The 1H NMR spectrum for the trans diastereomer is as follows. 1H NMR (CDCl3) δ 1.49 (d, J=6.0 Hz, 3H), 4.37 (dq, J=6.0 Hz, J=7.2 Hz, 1H), 4.45 (d, J=7.2 Hz, 1H), 6.63 (br s, 1H), 7.08-7.28 (m, 3H).

reactant | [1-(3,4-difluorophenyl)-2-hydroxy-propyl]-carbamic acid-tert-butyl ester | 1.5 mmol, 0.43 g | C(C)(C)(C)OC(NC(C(C)O)C1=CC(=C(C=C1)F)F)=O | C14H19F2NO3
reactant | NaH | 3.8 mmol, 0.09 g | [H-].[Na+]
reactant | NaH | 1.5 eq. | [H-].[Na+]
reactant | water | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-(3,4-DIFLUOROPHENYL)-5-METHYL-OXAZOLIDIN-2-ONE | FC=1C=C(C=CC1F)C1NC(OC1C)=O | C10H9F2NO2
